US09255110B2
To a mixture of 3-methoxy-4-nitro-phenylamine (13.4 g, 80.0 mmol), arsenic pentoxide (11.0 g, 48.0 mmol) and glycerol (33 mL, 216.0 mmol) at 100° C., was added, dropwise, concentrated sulfuric acid (4.7 mL, 88.0 mmol). The reaction mixture was then heated at a temperature ranging between 150 and 160° C. for 2 hours and then was cooled. Water (200 mL) was added and the resulting mixture was extracted four times with ethyl acetate. The combined organic extracts were dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The crude residue was purified by flash chromatography (EtOAc) to give 9.00 g (61% yield) of 7-methoxy-6-nitro-quinoline as an orange solid.

reactant | 3-methoxy-4-nitro-phenylamine | 80.0 mmol, 13.4 g | COC=1C=C(C=CC1[N+](=O)[O-])N | C7H8N2O3
reactant | arsenic pentoxide | 48.0 mmol, 11.0 g | O=[As](=O)O[As](=O)=O | As2O5
reactant | glycerol | 216.0 mmol, 33 mL | OCC(O)CO | C3H8O3
reactant | sulfuric acid | 88.0 mmol, 4.7 mL | S(O)(O)(=O)=O | H2O4S
solvent | Water | 200 mL | O | H2O
product | 7-methoxy-6-nitro-quinoline | 9.00 g, 61% yield | COC1=C(C=C2C=CC=NC2=C1)[N+](=O)[O-] | C10H8N2O3
